US05300506
To a suspension of 4.30 g (20.1 mmol, 1.0 equiv.) of 4-amino-N,N-dimethylbenzenemethanesulfonamide in 40 mL of concentrated aqueous hydrochloric acid and 20 mL of water cooled to 0° C. was added a solution of 1.38 g (20.1 mmol, 1.0 equiv.) of sodium nitrite in 20 mL of water dropwise. The reaction mixture became homogeneous during the addition. The reaction was stirred for fifteen minutes at 0° C. after the addition was complete. Meanwhile a solution of 22.6 g (100 mmol, 5.0 equiv.) of stannous chloride dihydrate in 40 mL of concentrated aqueous hydrochloric acid was prepared and cooled to -40° C. The solution of the diazonium salt was filtered into the stannous chloride solution. The reaction was allowed to warm to room temperature over the course of one hour. The reaction was then recooled to 0° C. and the precipitated product was collected by filtration. The solid was dried at 65° C. at 0.05 mm Hg for 45 minutes to yield 5.02 g (94%) of 4 -hydrazinyl-N,N-dimethylbenzenemethanesulfonamide hydrochloride.

reactant | 4-amino-N,N-dimethylbenzenemethanesulfonamide | 20.1 mmol, 4.30 g, 1.0 equiv. | NC1=CC=C(C=C1)CS(=O)(=O)N(C)C | C9H14N2O2S
reactant | sodium nitrite | 20.1 mmol, 1.38 g, 1.0 equiv. | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 40 mL | Cl | ClH
reactant | hydrochloric acid | 40 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4 -hydrazinyl-N,N-dimethylbenzenemethanesulfonamide hydrochloride | 5.02 g, 94% | Cl.N(N)C1=CC=C(C=C1)CS(=O)(=O)N(C)C | InChI=1S/C9H15N3O2S.ClH/c1-12(2)15(13,14)7-8-3-5-9(11-10)6-4-8;/h3-6,11H,7,10H2,1-2H3;1H
